US06583180B2
4-(allyloxy)-2-fluorobenzonitrile
2-Fluoro-4-hydroxybenzonitrile (5.00 g, 36.5 mmoles) and allyl bromide (3.47 mL, 40.1 mmoles) in anhydrous DMF (40 mL) were treated with K2CO3 (10.0 g, 72.9 mmoles) and stirred overnight at 80° C. Reaction mixture cooled and diluted with ethyl acetate, washed with H2O (2×) and brine, dried (Na2SO4), filtered, and concentrated under reduced pressure to provide the title compound with no further purification.

reactant | 2-Fluoro-4-hydroxybenzonitrile | 36.5 mmoles, 5.00 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | allyl bromide | 40.1 mmoles, 3.47 mL | C(C=C)Br | C3H5Br
reactant | K2CO3 | 72.9 mmoles, 10.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(allyloxy)-2-fluorobenzonitrile | C(C=C)OC1=CC(=C(C#N)C=C1)F | C10H8FNO
